US05236940
The procedure is as in Example 1, starting with 4-trifluoromethylthioaniline (3.85 g), potassium thiocyanate (7 g) and bromine (1 cc) in acetic acid (30 cc). The light brown crude product is taken up with acetic acid (250 cc) at 80° C. and the solution obtained is treated with decolorizing charcoal (0.4 g) and filtered; the filtrate is cooled to about 10° C., diluted with water (150 cc) and alkalinized with 28% strength ammonia solution (400 cc). The precipitate obtained is drained, dried in the air and recrystallized in a mixture of cyclohexane (250 cc) and isopropyl ether (30 cc). 6-Trifluoromethylthio-2-benzothiazolamine (2.9 g), m.p. 155° C., is obtained.

reactant | 4-trifluoromethylthioaniline | 3.85 g | FC(SC1=CC=C(N)C=C1)(F)F | C7H6F3NS
reactant | potassium thiocyanate | 7 g | [S-]C#N.[K+]
reactant | bromine | 1 cc | BrBr | Br2
reactant | charcoal | 0.4 g | C | CH4
solvent | acetic acid | 30 cc | C(C)(=O)O | C2H4O2
solvent | acetic acid | 250 cc | C(C)(=O)O | C2H4O2
product | 6-Trifluoromethylthio-2-benzothiazolamine | 2.9 g | FC(SC1=CC2=C(N=C(S2)N)C=C1)(F)F | C8H5F3N2S2
